US04661507
(iii) Preparation of 1-[2-(2,4-Difluorophenyl)-2,3-epoxypropyl]-1H-1,2,4-triazole methanesulphonate
2',4'-Difluoro-2-(1H-1,2,4-triazol-1-yl)acetophenone hydrochloride (59.6 g, 0.23M), trimethylsulphoxonium iodide (50.6 g, 0.23M) and cetrimide (2.1 g) were stirred in a mixture of toluene (370 ml) and 20% w/w aqueous sodium hydroxide at 60° for 3 hours. The toluene layer was separated and concentrated to 110 ml then diluted with ethyl acetate (150 ml). A solution of methanesulphonic acid (16.6 g, 0.172M) in ethyl acetate (20 ml) was added. More ethyl acetate (100 ml) was added and the mixture was stirred at 0° C. for one hour then filtration of the precipitate gave the title compound (43 g, 56%).

reactant | 2',4'-Difluoro-2-(1H-1,2,4-triazol-1-yl)acetophenone hydrochloride | 0.23M, 59.6 g | Cl.FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)=O
reactant | trimethylsulphoxonium iodide | 0.23M, 50.6 g | [I-].C[S+](=O)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 370 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cetrimide | 2.1 g | CCCCCCCCCCCCCC[N+](C)(C)C
product | 1-[2-(2,4-Difluorophenyl)-2,3-epoxypropyl]-1H-1,2,4-triazole methanesulphonate | 43 g, 56% | CS(=O)(=O)O.FC1=C(C=CC(=C1)F)C1(CN2N=CN=C2)CO1 | InChI=1S/C11H9F2N3O.CH4O3S/c12-8-1-2-9(10(13)3-8)11(5-17-11)4-16-7-14-6-15-16;1-5(2,3)4/h1-3,6-7H,4-5H2;1H3,(H,2,3,4)
